US08871753B2
Step C: tert-Butyl (3-{[2-({3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}thio)ethyl]amino}phenyl)carbamate
A solution of 2-({3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}thio)ethyl methanesulfonate (0.17 g, 0.43 mmol) in N,N-dimethylformamide (2 mL) was treated with potassium carbonate (0.15 g, 1.1 mmol) followed by tert-butyl (3-aminophenyl)carbamate (0.17 g, 0.81 mmol) and stirred at 20° C. for 16 h. The reaction mixture was purified by preparative LCMS to give the desired product (23 mg, 10% for 2 steps). LCMS for C23H26Cl2N5O2S (M+H)+: m/z=505.9, 508.0.

reactant | 2-({3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}thio)ethyl methanesulfonate | 0.43 mmol, 0.17 g | CS(=O)(=O)OCCSC1=CC(=CC=C1)NC1=NC(=NC=C1Cl)Cl | C13H13Cl2N3O3S2
reactant | potassium carbonate | 1.1 mmol, 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl (3-aminophenyl)carbamate | 0.81 mmol, 0.17 g | NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | tert-Butyl (3-{[2-({3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}thio)ethyl]amino}phenyl)carbamate | 23 mg, 10% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)SCCNC=1C=C(C=CC1)NC(OC(C)(C)C)=O)Cl | C23H25Cl2N5O2S
